US05003080
(±)-cis-6-(cyanomethyl)-2,2-dimethyl-1,3-dioxane-4-acetic acid (3.72 g, 17.44 mmol) is dissolved in 20 mL of dichloromethane, cooled to 0° C. and 0.2 g of 4-dimethylaminopyridine (DMAP) is added, followed by t-butyl alcohol and followed by 4.32 g of dicyclohexylcarbodiimide (DCC). This solution is allowed to slowly warm to room temperature over a 76.5-hour period. Thin layer chromotography (TLC) shows mainly product, and some slightly lower Rf by-products. The mixture is stirred one hour and 50 mL of dichloromethane is added and stirring continues five hours. An additional 100 mL of diethyl ether is added and the mixture filtered. The precipitate is washed with diethyl ether. The filtrate is concentrated to an oil. The crude product is chromatographed on silica gel eluting with 4:1 hexane:ethyl acetate. The eluate is concentrated to yield (±)-cis-1,1-dimethylethyl 6-(cyanomethyl)-2,2-dimethyl-1,3-dioxane-4-acetate.

reactant | (±)-cis-6-(cyanomethyl)-2,2-dimethyl-1,3-dioxane-4-acetic acid | 17.44 mmol, 3.72 g | C(#N)C[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)O | C10H15NO4
reactant | t-butyl alcohol | C(C)(C)(C)O | C4H10O
reactant | dicyclohexylcarbodiimide | 4.32 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (±)-cis-1,1-dimethylethyl 6-(cyanomethyl)-2,2-dimethyl-1,3-dioxane-4-acetate | C(#N)C[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)OC(C)(C)C | C14H23NO4
